US04379765
A mixture of 900 mL of dimethyl formamide, 165 mL of toluene, 65.6 g (1.13 mol) of anhydrous potassium fluoride, and 74.6 g (0.252 mol) of (2-chloro-5-nitrophenyl)(2-chlorophenyl)methanone was stirred and heated to reflux. It was dried by distilling out 170 mL of distillate, and then heated under reflux overnight. It was cooled in an ice bath and diluted with 1 l of water and 100 mL of hexane. After 1 hr the gold-colored precipitate was collected and dissolved in 300 mL of methylene chloride. The solution, after separation of water, was dried over sodium sulfate and concentrated in vacuo. The residue was slurried in ether (cold) to leave crude 2-nitroxanthene-9-one. The ether solution was concentrated in vacuo and the residue recrystallized from methanol to give the product, 60°-64°.

reactant | dimethyl formamide | 900 mL | CN(C=O)C | C3H7NO
reactant | potassium fluoride | 1.13 mol, 65.6 g | [F-].[K+]
reactant | (2-chloro-5-nitrophenyl)(2-chlorophenyl)methanone | 0.252 mol, 74.6 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])C(=O)C1=C(C=CC=C1)Cl | C13H7Cl2NO3
solvent | toluene | 165 mL | C1(=CC=CC=C1)C | C7H8
product | 2-nitroxanthene-9-one | [N+](=O)([O-])C1=CC=2C(C3=CC=CC=C3OC2C=C1)=O | C13H7NO4
